US07468376B2
1-(4-Fluorophenyl)-2-pyrimidin-4-ylethanone
To a suspension of NaH (2.26 g 50%, 47.7 mmol) in DMF (92 mL) under argon atmosphere and cooled to 0° C., 4-methylpyrimidine (3.00 g, 31.9 mmol) was added slowly. Then, ethyl 4-fluorobenzoate (6.40 g, 38.2 mmol) was added and it was stirred at room temperature overnight. Water was added and the solvent was evaporated. The residue was taken up in a mixture of EtOAc and brine. The phases were separated and the aqueous phase was reextracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated to dryness. The crude product obtained by chromatography on silica gel using hexane-EtOAc mixtures of increasing polarity as eluent, to afford 3.30 g of the desired compound (yield: 48%).

reactant | NaH | 47.7 mmol, 2.26 g | [H-].[Na+]
reactant | 4-methylpyrimidine | 31.9 mmol, 3.00 g | CC1=NC=NC=C1 | C5H6N2
reactant | ethyl 4-fluorobenzoate | 38.2 mmol, 6.40 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | Water | O | H2O
solvent | DMF | 92 mL | CN(C)C=O | C3H7NO
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 1-(4-Fluorophenyl)-2-pyrimidin-4-ylethanone | 3.30 g, yield: 48% | FC1=CC=C(C=C1)C(CC1=NC=NC=C1)=O | C12H9FN2O
